US05440051
0.5 g of potassium chloride and 10 g of difluoromethoxybenzene were placed in 100 ml of 1,3-bistrifluoromethylbenzene and chlorine was then introduced at 100° C. under UV irradiation. A further 20 g of difluoromethoxybenzene were metered in over a period of 1 hour. When the chlorine uptake had ended, the mixture was purged with nitrogen and then distilled to give 35.5 g of chlorodifluoromethoxybenzene (boiling point: 144° C., refractive index nD20 : 1.4479).

reactant | difluoromethoxybenzene | 10 g | FC(OC1=CC=CC=C1)F | C7H6F2O
reactant | chlorine | ClCl | Cl2
reactant | difluoromethoxybenzene | 20 g | FC(OC1=CC=CC=C1)F | C7H6F2O
solvent | 1,3-bistrifluoromethylbenzene | 100 ml | FC(C1=CC(=CC=C1)C(F)(F)F)(F)F | C8H4F6
catalyst | potassium chloride | 0.5 g | [Cl-].[K+]
product | chlorodifluoromethoxybenzene | 35.5 g | ClC1=C(C=CC=C1)OC(F)F | C7H5ClF2O
